US03968142
A mixture of 6.7 g of 1-methyl-4-oxo-6-cyclohexyl-7-chloro-1,2,3,4-tetrahydronaphthalene-1-carboxylic acid, 4 g of hydrazine hydrate, 6.7 g of potassium hydroxide and 40 ml of triethyleneglycol is heated for 2 hours at 130°-140°C. Then, while distilling off a mixture of hydrazine and water, the temperature is raised to 195°C and the batch is stirred until nitrogen is no longer being given off, then diluted with 50 ml of water, acidified with concentrated hydrochloric acid and the mixture is extracted with ethyl acetate. The ethyl acetate is evaporated and the residual crude product recrystallized from acetone, to yield 5.9 g of 1-methyl-6-cyclohexyl-7-chloro-1,2,3,4-tetrahydronaphthalene-1-carboxylic acid melting at 167°-168°C, of the formula ##SPC7##

reactant | 1-methyl-4-oxo-6-cyclohexyl-7-chloro-1,2,3,4-tetrahydronaphthalene-1-carboxylic acid | 6.7 g | CC1(CCC(C2=CC(=C(C=C12)Cl)C1CCCCC1)=O)C(=O)O | C18H21ClO3
reactant | hydrazine hydrate | 4 g | O.NN
reactant | potassium hydroxide | 6.7 g | [OH-].[K+]
solvent | triethyleneglycol | 40 ml | C(COCCOCCO)O | C6H14O4
product | 1-methyl-6-cyclohexyl-7-chloro-1,2,3,4-tetrahydronaphthalene-1-carboxylic acid | 5.9 g | CC1(CCCC2=CC(=C(C=C12)Cl)C1CCCCC1)C(=O)O | C18H23ClO2
